US06245746B1
(A) Boc-Tyrosyl-Nδ-Boc-Nα-Methylornithine β-Naphthylamide
Boc-tyrosine (400 mg) and Nδ-Boc-Nα-methylornithine β-naphthylamide (454 mg) were coupled (Procedure B) to afford titled compound (447 mg) as a glassy solid: 1H NMR (400 MHz, CDCl3) δ1.50 (m, 21H), 1.77 (m, 1H), 2.73 (s, 3H), 2.76 (m, 2H), 2.99 (dd, J=10.8; 6.8 Hz, 1H), 3.09 (dd, J=12.8; 13.2 Hz, 1H), 4.70 (m, 1H), 4.87 (m, 1H), 6.89 (d, J=8.0 Hz, 2H), 7.09 (d, J=8.0 Hz, 2H), 7.41 (m, 2H), 7.75 (m, 4H), and 8.26 (s, 1H).

reactant | Boc-tyrosine | 400 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | Nδ-Boc-Nα-methylornithine β-naphthylamide | 454 mg | C1=C(C=CC2=CC=CC=C12)NC([C@@H](NC)CCCNC(=O)OC(C)(C)C)=O | C21H29N3O3
product | Boc-Tyrosyl-Nδ-Boc-Nα-Methylornithine β-Naphthylamide | 447 mg | C1=C(C=CC2=CC=CC=C12)NC([C@@H](N(C)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)CCCNC(=O)OC(C)(C)C)=O | C35H46N4O7
